Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abd pain
 
Major Surgical or Invasive Procedure:
ERCP, sphincterotomy, stent placement

 
History of Present Illness:
___ with hx of DLBCL in remission (followed at ___), prior
biliary obstruction ___ lymphoma s/p multiple ERCPs ___, ___ of
the head and neck s/p reconstruction with R total parotidectomy,
composite resection R ear and periauricular mass on ___ at
___ (Dr. ___ presenting with epigastric pain x3 days. Pt
describes waking up on ___ with epigastric discomfort, just
R of midline, described at ___ "discomfort," without associated
nausea, vomiting, F/C, diarrhea or constipation. Discomfort
persisted but fluctuated in intensity over the following two
days. He had been taking Tylenol q6h for his recent R facial
surgery, but had decreased it to 650 mg ___ times per day prior
to the onset of epigastric discomfort. He describes associated
anorexia, eating only chicken broth and soup since the onset of
symptoms; discomfort is nonradiating, worse when shifting into
certain positions, without associated change in stool color. Pt
did notice darker urine on the day of admission. 

With respect to his prior episode of biliary obstruction, he was
found to have lymphadenopathy causing obstruction at time of
diagnosis of DLBCL (initially presumed to be pancreatic cancer,
found to be lymphoma on biopsy). He required multiple ERCPs in
___ at ___, with exchange of plastic stents, until his 
last
ERCP on ___, when obstruction appeared to have resolved and
stent was retrieved without replacing. He does not recall having
epigastric discomfort with prior episode of biliary obstruction.

Pt initially presented to ___, where labs were
notable for WBC 14.6, Hb 14.0, Plt 203, BUN 13, Cr 1.0. Tbili
2.5, Dbili 1.6, Alk phos 115, ALT 103, AST 157, lipase 9, lactic
acid 1.2. Blood and urine cultures were obtained.

At ___, CT abd/pelvis with contrast revealed inflammatory type
change in the right upper abdomen, most prominent around the
gallbladder. Mild L hydronephrosis and hydroureter with no
urinary tract calculus. Etiology is not determined. 

RUQ u/s revealed multiple extremely tiny stones in the cystic
duct and neck of gallbladder. Borderline gallbladder wall
thickening at 4 mm, with negative sonographic ___ sign. CHD
4 mm, no intrahepatic duct dilatation. 

___ MD at ___ spoke with pt's oncologist at ___, Dr. ___, who confirmed that pt's transaminases and bilirubin
were normal within the last month. ___ was unable to accept pt 
in
transfer ___ lack of bed capacity. Given anticipated need for
ERCP, pt was transferred to ___ ___. He received
piperacillin/tazobactam at 16:07 on ___, IVF, and Tylenol
___ mg PO prior to transfer.

Of note, review of ___ records reveals that LFTs were last
checked on ___, with ALT 23, AST 26, alk phos 71, Tbili 0.6. 


In the ___ ___:
VS 99.6, 90, 157/81, 96% RA
Labs notable for WBC 8.6, Hb 12.5, plt 163, INR 1.4
ALT 327, AST 331, Alk phos 173, Tbili 5.8, Dbili 5.3, Albumin 
3.3
BUN 12, Cr 0.8

Imaging: ___ imaging as above

Received: 
Home atorvastatin 10 mg 
Zosyn x2
IVF

On arrival to the floor, pt endorses ___, feels fatigued but
otherwise fine. Denies CP, SOB, although notes that he has not
been using his CPAP at home given recent R facial surgery, and
has been advised he may resume 2 weeks post op.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
per prior notes, reviewed in detail in ___ records,
confirmed with pt:
DLBCL - completed cycle 6 of ___ ___ - originally
presented with LAD causing biliary obstruction - followed by Dr.
___ at ___
Restless leg syndrome
Htn
OSA
BPH
Head and neck cancer - CT ___ revealed:
1. New enhancing soft tissue mass in the right preauricular
region, as well as another apparently growing soft tissue mass 
in
the paramedian posterior subcutaneous tissues. Findings are
concerning for recurrent disease.
2. No evidence of cervical lymphadenopathy by CT size or
morphology criteria.

___ Skin Cancers treated at ___ Dermatologic Surgery
Center:
1. left buccal cheek, diagnosis squamous cell carcinoma, treated
___, by ___
2. right maxillary cheek, diagnosis squamous cell carcinoma
(moderately differentiated), treated ___, by ___
3. right preauricular cheek, diagnosis squamous cell carcinoma
(moderately differentiated),squamous cell carcinoma (with
perineural invasion), treated ___, by ___
s/p composite resection of the right cheek and preauricular
squamous cell carcinoma, right parotidectomy on ___. 

 
Social History:
___
Family History:
Family History, per prior notes: Many female relatives with
breast cancer - per pt, there have been efforts to identify
genetic mutation, without success. Brother with leukemia is in
remission.
 
Physical Exam:
ADMISSION EXAM

VS: 98.2 PO 138 / 80 102 20 93 2L NC 
GEN: obese male, sleeping comfortably lying flat in left lateral
decubitas, awakens easily, alert and interactive, comfortable, 
no
acute distress
HEENT: PERRL, chronic strabismus, +scleral icterus, conjunctiva
pink, oropharynx without lesion or exudate, moist mucus
membranes. Healing incision extends from R temporal/preauricular
region to submandibular region, dissolving sutures in place.
Wound is ___ with some crusting but no active
drainage or surrounding erythema.
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
appreciated
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, protuberant abdomen, trace TTP with deep epigastric
palpation, without rebounding or guarding, nondistended with
hypoactive bowel sounds, unable to assess for hepatomegaly ___
body habitus
EXTREMITIES: 1+ bilateral pitting edema to mid shins
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves ___ grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect

==========
DISCHARGE EXAM:
___ 1120 Temp: 98.0 PO BP: 130/79 L Sitting HR: 82 RR: 18 
O2 sat: 95% O2 delivery: RA
 
HEENT: eyes icteric, normal hearing, nose unremarkable, MMM
without exudate
CV: RRR no mrg, JVP difficult to assess ___ habitus
Resp: CTAB
GI: sntnd, NABS
GU: no foley
MSK: no obvious synovitis
Ext: wwp, 1+ edema in BLEs
Skin: R cheek incision healing wlel without erythema/induration
Neuro: A&O grossly, MAEE, CNs grossly nl except baseline
strabismus
Psych: normal affect, pleasant

 
Pertinent Results:
ADMISSION RESULTS

___ 12:30AM BLOOD WBC: 8.6 RBC: 4.20* Hgb: 12.5* Hct: 38.5*
MCV: 92 MCH: 29.8 MCHC: 32.5 RDW: 12.7 RDWSD: 42.___ 
___ 12:30AM BLOOD Neuts: 83.5* Lymphs: 7.2* Monos: 8.3 Eos:
0.2* Baso: 0.1 Im ___: 0.7* AbsNeut: 7.21* AbsLymp: 0.62*
AbsMono: 0.72 AbsEos: 0.02* AbsBaso: 0.01 
___ 12:30AM BLOOD ___: 15.0* PTT: 26.3 ___: 1.4* 
___ 12:30AM BLOOD Glucose: 117* UreaN: 12 Creat: 0.8 Na: 
140
K: 3.8 Cl: 104 HCO3: 23 AnGap: 13 
___ 12:30AM BLOOD ALT: 327* AST: 331* AlkPhos: 173* 
TotBili:
5.8* DirBili: 5.3* IndBili: 0.5 
___ 12:30AM BLOOD Lipase: 17 
___ 12:30AM BLOOD Albumin: 3.3* 
___ 12:30AM BLOOD Ethanol: NEG Acetmnp: NEG 
___ 12:40AM BLOOD Lactate: 0.9 
___ 12:31 am BLOOD CULTURE
  
   Blood Culture, Routine (Pending): 
 
___ 12:30 am BLOOD CULTURE
  
   Blood Culture, Routine (Pending): 
  
   URINE CULTURE (Pending): 
 
IMAGING - images and reports reviewed:

___ CT abd/pelvis with contrast:
EXAM: ___ CT/ABDOMEN & PELVIS WITH CONTRA
INDICATION:  abd pain, RLQ/Right mid.
TECHNIQUE:  Axial images of the abdomen and pelvis using IV
contrast(100 cc Isovue), with coronal and sagittal MPR images.
Radiation dose reduction techniques utilized:  Automated 
exposure
control and adjustment of mA and/or kV according to patient 
size.
 
FINDINGS:  There is hazy attenuation in the fat surrounding the
gallbladder consistent with inflammatory type change, extending
inferiorly into the right paracolic gutter.  No calcified
gallstone or common duct stone is identified.  Common bile duct
is 9 mm in diameter, with mild hazy attenuation in the adjacent
fat.
 
There is a ___ focal area of hazy attenuation in the mesenteric
fat of the mid abdomen, with subcentimeter lymph nodes and a 10
mm round calcification in the same area.
 
No dilated bowel or bowel wall thickening.  The appendix appears
normal.
 
The liver has mild periportal edema in the right hepatic lobe,
with no focal lesion.  There is relative enlargement of the left
lobe compared to the right, with nonspecific appearance.  Spleen
and pancreas appear normal.  Kidneys are notable for 5.4 cm 
right
renal cyst and 10 mm round low density in the right kidney
possibly there is fullness of the left renal collecting system
and left ureter with no urinary tract calculus.  Urinary bladder
appears normal.  Prostate is 5.8 cm in diameter with small
posterior calcifications.
 
Aorta and IVC appear normal.  No retroperitoneal 
lymphadenopathy.
Adrenal glands are normal size, with possible 10 mm nodule in 
the
left adrenal gland.
 
There is very mild atelectasis in the dependent portion of the
right lung.
 
There are degenerative changes in the spine with anterior fusion
of the SI joints and bridging syndesmophytes in the thoracic
spine.  A cyst but with some increased attenuation centrally.

IMPRESSION:
1. Inflammatory type change in the right upper abdomen, most
prominent around gallbladder.  Common bile duct is 9 mm in
diameter. No visible gallstone or common duct stone by CT. 
Recommend ultrasound correlation.  Nuclear medicine HIDA scan 
may
be of use.
2. Hazy attenuation in of the mesenteric fat in the mid abdomen
with small lymph nodes.  The appearance is nonspecific with
mesenteric panniculitis possible.
3. Mild left hydronephrosis and hydroureter with no urinary 
tract
calculus.  The etiology for this is not determined.  ___
for this is recommended.
4. 5.4 cm right renal cyst.  10 mm round low density in the 
right
kidney is most likely benign but indeterminate on this exam. 
This could be reassessed on a ___ ultrasound.
 
___ RUQ u/s:
INDICATION:  abdominal pain.
COMPARISON:  CT earlier today
FINDINGS:  Gallbladder:  Multiple extremely tiny stones in the
cystic duct and neck of gallbladder.  Borderline gallbladder 
wall
thickening at 4 mm.  No focal tenderness over the gallbladder.
Common hepatic duct 4 mm. No intrahepatic duct dilatation. 
Liver: Homogeneous echotexture without focal lesion.
Right kidney 13.2 cm. 5.6 cm cyst lower pole.  Otherwise
unremarkable right kidney.
 
Pancreas: Limited evaluation due to bowel gas.  No gross
abnormality.
 
Proximal aorta and IVC are normal caliber.
 
IMPRESSION:  Tiny stones within the cystic duct in neck of
gallbladder.  No focal tenderness over gallbladder.  Mild
gallbladder wall thickening.  Please correlate clinically as to
the possibility acute cholecystitis.

===========
PERTINENT INTERVAL RESULTS

___ 05:40AM BLOOD ___ 
___
___ 12:30AM BLOOD ___
___ 06:05AM BLOOD ___
___ 12:30AM BLOOD ___
___ 12:40AM BLOOD Lactate-.9
___ 09:12PM URINE ___ 
Epi-<1
___ 09:12PM URINE ___ 
___
___ 09:49PM URINE ___ 
___

ERCP: ampulla w evidence of previous sphincterotomy. CBD 7mm, 
Distal CBD appeared to have a taper vs mild stricture in the 
ampullary portion. Sphincteroplasty was successfully performed 
at the biliary orifice with a 8mm ___ balloon. Cytology 
brushings performed. Stones, sludge and pus were removed. ___ F, 
7cm straight plastic biliary stent was placed successfully.

HIDA
TECHNIQUE:  ISOTOPE DATA: (___) 4.4 mCi Tc99m Mebrofenin; 
DRUG DATA: 2.6 mg
Sincalide (CCK Analog);
Following the intravenous injection of tracer, serial ___ 
images of
tracer uptake into the hepatobiliary system were obtained for 60 
minutes.
 
At the end of 60 minutes, following ___ of the 
gallbladder, the
patient was rescanned at 4 hours for 14 minutes.
 
FINDINGS:  Serial images over the abdomen show 
homogeneous/heterogeneous/delayed
uptake of tracer into the hepatic parenchyma.
 
The gallbladder is not visualized during study.  Tracer activity 
is noted in the
small bowel at 13 minutes.
 
On repeat images at 4 hours, the gallbladder was not seen.
IMPRESSION:  Abnormal hepatobiliary scan.  Nonvisualization of 
the gallbladder suggestive of cystic duct obstruction. 

========
DISCHARGE RESULTS:
___: Pending

___ 05:40AM BLOOD ___ 
___ Plt ___
___ 05:40AM BLOOD ___ 
___ Im ___ 
___
___ 05:40AM BLOOD ___ 
___
___ 05:40AM BLOOD ___ 
___
___ 05:40AM BLOOD ___
___ 05:40AM BLOOD ___ with hx of DLBCL in remission (followed at ___), prior 
biliary obstruction ___ lymphoma s/p multiple ERCPs ___, SCC of 
the head and neck s/p reconstruction with R total parotidectomy, 
composite resection R ear and periauricular mass
on ___ at ___ (Dr. ___ presenting with epigastric 
pain x3 days, found to have choledocholithiasis and cholangitis. 


# Biliary obstruction: 
# Choledocholthiasis
# Cholangitis: 
# Biliary stricture and ampullary obstruction
# Cystic duct obstruction
Has stones and pus in biliary tree, accounting for cholangitis, 
but note that the strictures are unexpected. Reportedly had 
strictures years ago but resolved after last ERCP, which is 
potentially concerning for recurrent disease. Underwent ERCP as 
above with plastic stent placement after sweeping of 
stones/sludge/pus. Will need repeat ERCP in 6 weeks for stent 
pull. Given thickening of GB, underwent HIDA showing cystic duct 
obstruction; he was seen by hepatobiliary surgery team who rec'd 
outpatient follow up after radiation and stent removal for 
___ surgical evaluation (formal note pending). Cytology 
pending at time of discharge. S/p pip/tazo (___), 
CTX/MNZ (___-), narrowed to cipro/flagyl on discharge to 
complete a 5d course of therapy as per ERCP.

# SCC of head and neck, s/p excision and reconstruction: Wound 
appears healthy, followed by Dr. ___ at ___. Rescheduling 
outpatient appointment for XRT. 

# Hx of DLBCL: Followed by Dr. ___ at ___. No current 
indication of recurrence of disease, although requires close 
monitoring and further assessment of etiology of biliary 
obstruction as above. F/u cytology. 

# wide complex QRS and ST depression changes during anesthesia: 
occurred during previous anesthesia at ___, and apparently also 
again this time while getting propofol. Asymptomatic before and 
after, EKG afterwards back to baseline. At last hospitalization 
at ___ when this happened, his outpatient cardiologist was 
contacted and reported that this did not require inpatient 
evaluation but rather outpatietn evaluation with him. Was kept 
on tele for rest of hospitalization, notable only for a few 
episodes of NSVT, asx. Electrolytes were checked and were 
basically wnl. Started on beta blocker, discharged on 50mg 
Metoprolol SA with plan for cardiology ___.

# HTN: Gave captopril in place of home lisinopril 30mg, reduced 
to 10mg on discharge based on BP trends while on metoprolol.

# BPH: continued home doxazosin with hold parameters

# OSA: Home CPAP on hold x2 weeks post operatively

# ___: mild, per patient apparently baseline. Does not appear 
grossly overloaded. TSH, albumin, U prot/cr ok. 

=======
TRANSITIONAL ISSUES:
- pt to follow upw with DFCI oncology regarding facial SCC
- pt to follow up with his outpatient cardiologist regarding 
NSVT and QRS widening ___ suggest this follow up 
occurs prior to any surgery and ideally before any biliary 
intervention
- noted to have adrenal nodule, assess if need for further 
follow up based on stability
- noted to have hydroureter versus renal fullness (radiology 
report at ___, their assessment fluctuated) as well as 
microscopic hematuria; given cancer history will likely need 
urology evaluation +/- cystoscopy +/- urine cytology; defer to 
PCP
- renal cyst noted on CT; assess if need for follow up necessary 
based on stability
- will need repeat ERCP in 6 weeks for stent pull
- consider TTE given mild ___ and elevated BNP as well as brief 
NSVT (if not recently done)
- started metoprolol for NSVT, reduced lisinopril from 30mg --> 
10mg
- Outpatient surgical follow up for elective CCY (pt provided 
with # at the time of discharge); please ___ with final written 
recs to ___ verbal recs (consultant paged multiple times to 
finalize recs prior to d/c)

>30 minutes were spent in discharge planning and coordination of 
care on the day of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 30 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Doxazosin 4 mg PO HS 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Every 12 hours 
Disp #*6 Tablet Refills:*0 
2.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Metoprolol Succinate XL 50 mg PO DAILY *AST Approval 
Required*
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth Daliy Disp 
#*30 Tablet Refills:*0 
4.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*9 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 10 mg PO QPM  
7.  Doxazosin 4 mg PO HS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
choledocholithiasis
cholangitis
biliary stricture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you.

You were admitted for abdominal pain and jaundice. You were 
found to stones and infection in your bile ducts 
("choledocholithiasis and cholangitis") for which you underwent 
an ERCP and stent placement and received antibiotics. 
You were seen by the hepatobiliary surgery service who gave you 
their information to arrange for follow up as an outpatient, but 
felt there was no need for urgent surgery. 

Please follow up the cytology report with the ERCP team, who 
will also contact you to plan a stent removal in 6 weeks. The 
contact information for ___, MD is ___. 
If you have not heard from them or your PCP in one week please 
call this number.

Please also follow up with your cardiologist in ___ within 
2 weeks due to your heart rhythm abnormalities during surgery. 
We changed your blood pressure medicines and you improved (see 
discharge med list for full details).

You will be contacted by ___ about 
rescheduling your therapy for your facial cancer. 

You were also found to have a few incidental findings that will 
need follow up, including: 

- microscopic amounts of blood in the urine and fullness of the 
kidney. Please follow up with your PCP to see if these are new 
and/or whether you need to see a urologist for further 
evaluation
- an adrenal nodule. Please follow up with your PCP to see if 
this has been imaged before and if it has been stable. That will 
determine what follow up, if any, is necessary. 
- mesenteric adenitis. Please follow up with your PCP to see if 
this has been imaged before and if it has been stable. That will 
determine what follow up, if any, is necessary. 

It was a pleasure taking care of you!
 
Followup Instructions:
___